US06344476B1
A slurry of methylamine hydrochloride (1.03 g, 15.2 mmol, 3.0 equiv) in anh. toluene (60 mL) at 0° C. was treated with AlMe3 (2M in toluene, 7.6 mL, 15.2 mmol, 3.0 equiv). The resulting solution was stirred at 0° C. for 30 min and allowed to warm to room temp for 40 min. To the aluminum amide solution was then added methyl 3-amino-5-tert-butyl-2-furancarboxylate (1.00 g, 5.1 mmol). The resulting mixture was heated at the reflux temp. for 20 h, cooled to room temp., and a 6N HCl solution was added dropwise. The quenched mixture was made basic with a 1N NaOH solution (approximately 100 mL) and extracted with EtOAc (3×200 mL). The combined organic layers were washed with a saturated NaCl solution, dried (Na2SO4), and concentrated under reduced pressure to afford N-methyl-3-amino-5-tert-butyl-2-furancarboxamide as a yellow solid (0.90 g, 91%): TLC (20% EtOAc/CH2Cl2) Rf0.26; 1H NMR (CDCl3) δ1.23 (s, 9H), 2.93 (d, J=4.8 Hz, 3H), 4.51 (br s, 1H), 5.73 (s, 1H).

reactant | methylamine hydrochloride | 15.2 mmol, 1.03 g, 3.0 equiv | Cl.CN
reactant | AlMe3 | 15.2 mmol, 2M, 7.6 mL, 3.0 equiv | C[Al](C)C
reactant | methyl 3-amino-5-tert-butyl-2-furancarboxylate | 5.1 mmol, 1.00 g | NC1=C(OC(=C1)C(C)(C)C)C(=O)OC | C10H15NO3
reactant | HCl | 6N | Cl | ClH
reactant | NaOH | 1N, approximately 100 mL | [OH-].[Na+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | N-methyl-3-amino-5-tert-butyl-2-furancarboxamide | 0.90 g, 91% | CNC(=O)C=1OC(=CC1N)C(C)(C)C | C10H16N2O2
